US06372758B1
Part I: Preparation of methyl 1-(2-pyridinylmethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate. The unsubstituted piperidine sulfonamide from part H (7.9 g, 16.95 mmol) was dissolved in dry dimethylformamide (35 mL) and potassium carbonate (7.05 g, 51.1 mmol) and 2-picolyl chloride hydrochloride (4.21 g, 25.67 mmol) were added. The reaction was stirred at 35° C. for sixteen hr and then concentrated in vacuo. The residue was taken up in ethyl acetate and filtered through Celite. The filtrate washed with water two times, saturated sodium chloride solution, dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography (on silica, ethyl acetate/hexanes) provided the N-picolyl piperidine sulfonamide as a white solid (6.8 g, 72%).

reactant | methyl 1-(2-pyridinylmethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate | N1=C(C=CC=C1)CN1CCC(CC1)(C(=O)OC)S(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C25H30F3N3O6S
reactant | potassium carbonate | 51.1 mmol, 7.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-picolyl chloride hydrochloride | 25.67 mmol, 4.21 g | Cl.N1=C(C=CC=C1)CCl
reactant | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | N-picolyl piperidine sulfonamide | 6.8 g, 72% | N1=C(C=CC=C1)CNS(=O)(=O)N1CCCCC1 | C11H17N3O2S
